US05661169
5-Chloro-3-(3-chlorophenyl)-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 50 g of 2,4-dichloro-1-nitrobenzene, 40 ml of 3-chloroaniline and 43 g of anhydrous sodium acetate in 220 ml of ethylene glycol is heated at reflux for 72 hours. After cooling, the precipitate formed is filtered off and washed with water. 39 g of the expected product are obtained after crystallization from iso ether, mp=112° C.

reactant | 2,4-dichloro-1-nitrobenzene | 50 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 3-chloroaniline | 40 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium acetate | 43 g | C(C)(=O)[O-].[Na+]
solvent | ethylene glycol | 220 ml | C(CO)O | C2H6O2
product | 5-Chloro-3-(3-chlorophenyl)-1,3-dihydro-2H-benzimidazol-2-one | 39 g | ClC1=CC2=C(NC(N2C2=CC(=CC=C2)Cl)=O)C=C1 | C13H8Cl2N2O
